US03992535
19.8 gm (0.062 mol) of 4-hydroxy-2-methyl-2H-naphtho [2,1-e]-1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide were reacted with 9.3 gm (0.093 mol) of 2-amino-thiazole in 500 ml of xylene analogous to Example 1 and yielded 13.5 gm (56% of theory) of 4-hydroxy-2-methyl-N-(2thiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide, m.p. 248°-249° C (decomp.; from ethylene chloride).

reactant | 4-hydroxy-2-methyl-2H-naphtho [2,1-e]-1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide | 0.062 mol, 19.8 gm | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C15H13NO5S
reactant | 2-amino-thiazole | 0.093 mol, 9.3 gm | NC=1SC=CN1 | C3H4N2S
reactant | ethylene chloride | C(CCl)Cl | C2H4Cl2
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxy-2-methyl-N-(2thiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | 13.5 gm, 56% | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC=1SC=CN1 | C17H13N3O4S2
